US08003800B2
3,5-Diethyl-4,N-dihydroxy-benzamidine
The title compound is prepared from commercially available 2,6-diethylaniline following literature procedures (G. G. Ecke, J. P. Napolitano, A. H. Filbey, A. J. Kolka, J. Org. Chem. 22 (1957) 639-642; and literature cited for 3-ethyl-4,N-dihydroxy-5-methyl-benzamidine).

reactant | 2,6-diethylaniline | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
reactant | 3-ethyl-4,N-dihydroxy-5-methyl-benzamidine | C(C)C=1C=C(C(=N)NO)C=C(C1O)C | C10H14N2O2
product | 3,5-Diethyl-4,N-dihydroxy-benzamidine | C(C)C=1C=C(C(=N)NO)C=C(C1O)CC | C11H16N2O2
